2187-08-21 11:27:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Melena at 4PM, HCT drop from 31 to 24- confirmed, got 2 U PRBC - follow
   up HCT 28
 did not go to IR as he was not having active bleeding at
   time HCT resulted. Onc and Surgery aware
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-8-21**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-8-21**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 101 (79 - 136) bpm
   BP: 141/88(102) {115/67(84) - 157/99(113)} mmHg
   RR: 27 (18 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
           Total In:
                                                                  2,196 mL
                                                                    533 mL
   PO:
                                                                    900 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,090 mL
                                                                     10 mL
   Blood products:
                                                                    206 mL
                                                                    343 mL
   Total out:
                                                                    920 mL
                                                                    550 mL
   Urine:
                                                                    920 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,276 mL
                                                                    -18 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Gen: alert, conversant
   CV: tachy but regular
   Chest: good air movement
   Abd: distended soft +BS
   Ext: trace edema
   Labs / Radiology
   9.8 g/dL
   109 K/uL
   97 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.6 mEq/L
   6 mg/dL
   110 mEq/L
   140 mEq/L
   28.2 %
   5.0 K/uL
        [image002.jpg]
                             [**2187-8-19**]  07:56 AM
                             [**2187-8-19**]  02:01 PM
                             [**2187-8-19**]  05:45 PM
                             [**2187-8-19**]  09:57 PM
                             [**2187-8-20**]  02:07 AM
                             [**2187-8-20**]  08:01 AM
                             [**2187-8-20**]  12:18 PM
                             [**2187-8-20**]  07:09 PM
                             [**2187-8-20**]  08:48 PM
                             [**2187-8-21**]  05:37 AM
   WBC
   5.0
   4.9
   7.5
   7.2
   5.0
   Hct
   28.0
   29.8
   30.2
   27.0
   28.0
   29.1
   31.0
   24.5
   24.7
   28.2
   Plt
   103
   86
   103
   118
   109
   Cr
   0.9
   0.8
   Glucose
   120
   97
   Other labs: PT / PTT / INR:14.1/24.4/1.2, ALT / AST:18/19, Alk Phos / T
   Bili:268/1.0, Amylase / Lipase:29/36, Lactic Acid:1.3 mmol/L,
   Albumin:3.2 g/dL, LDH:159 IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   GI Bleed: recurred last PM with 6 point HCT drop and melena though by
   time HCT retunred and team aware was no longer actively bleeding thus
   IR was not indicated for repeat angio. Given 2 UPRBC with HCT bump. Has
   2 IV and on IV PPI GI aware.
   Needs q6 HCTs. IR and Surgery are following. If he rebleeds will send
   back to Angio
   Will call IR team today to discuss if there is anything else they would
   embolize
electively
 in light of ongoing slow bleeding. Dr [**Last Name (STitle) 2231**]
   aware and also recc we consult Rad Onc consult to see if radiation is a
   reasonable alternative.
   Tachycardia: stable at 100, on low dose Dilt
   Remainder of issues as per Housestaff notes
 discussed and reviewed on
   Rounds
   ICU Care
   Nutrition: advance to full liquids after confirm with IR
   Glycemic Control:
   Lines:
   22 Gauge - [**2187-8-17**] 09:24 PM
   18 Gauge - [**2187-8-20**] 12:32 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication: with pt
   [**Name (NI) 36**] status: Full code
   Disposition :ICU
   Total time spent: 35
   Patient is critically ill

2187-08-22 08:27:00 Physician Attending Progress Note
Chief Complaint: gi bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2187-8-21**] 07:30 PM
 BLOOD CULTURED - At [**2187-8-22**] 12:33 AM
 URINE CULTURE - At [**2187-8-22**] 01:50 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-8-21**] 08:30 AM
   Lorazepam (Ativan) - [**2187-8-22**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-8-22**] 08:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.3
C (97.3
   HR: 105 (96 - 148) bpm
   BP: 155/87(104) {134/81(97) - 173/113(120)} mmHg
   RR: 26 (20 - 40) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
           Total In:
                                                                  2,013 mL
                                                                    440 mL
   PO:
                                                                    600 mL
           TF:
   IVF:
                                                                  1,070 mL
                                                                     65 mL
   Blood products:
                                                                    343 mL
                                                                    375 mL
   Total out:
                                                                  1,711 mL
                                                                    338 mL
   Urine:
                                                                  1,211 mL
                                                                    288 mL
   NG:
   Stool:
                                                                    500 mL
                                                                     50 mL
   Drains:
   Balance:
                                                                    302 mL
                                                                    102 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///20/
   Physical Examination
   Labs / Radiology
   9.9 g/dL
   108 K/uL
   114 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.9 mEq/L
   5 mg/dL
   108 mEq/L
   137 mEq/L
   29.1 %
   9.7 K/uL
        [image002.jpg]
                             [**2187-8-20**]  02:07 AM
                             [**2187-8-20**]  08:01 AM
                             [**2187-8-20**]  12:18 PM
                             [**2187-8-20**]  07:09 PM
                             [**2187-8-20**]  08:48 PM
                             [**2187-8-21**]  05:37 AM
                             [**2187-8-21**]  12:49 PM
                             [**2187-8-21**]  05:25 PM
                             [**2187-8-21**]  09:28 PM
                             [**2187-8-22**]  03:05 AM
   WBC
   7.2
   5.0
   9.7
   Hct
   28.0
   29.1
   31.0
   24.5
   24.7
   28.2
   30.1
   33.8
   30.4
   29.1
   Plt
   118
   109
   108
   Cr
   0.9
   0.8
   0.9
   Glucose
   120
   97
   114
   Other labs: PT / PTT / INR:14.1/24.4/1.2, ALT / AST:18/19, Alk Phos / T
   Bili:268/1.0, Amylase / Lipase:29/36, Lactic Acid:1.3 mmol/L,
   Albumin:3.2 g/dL, LDH:159 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   GI Bleed: recurred last PM with 6 point HCT drop and melena though by
   time HCT retunred and team aware was no longer actively bleeding thus
   IR was not indicated for repeat angio. Given 2 UPRBC with HCT bump. Has
   2 IV and on IV PPI GI aware.
   Needs q6 HCTs. IR and Surgery are following. If he rebleeds will send
   back to Angio
   Will call IR team today to discuss if there is anything else they would
   embolize
electively
 in light of ongoing slow bleeding. Dr [**Last Name (STitle) 2231**]
   aware and also recc we consult Rad Onc consult to see if radiation is a
   reasonable alternative.
   Tachycardia: stable at 100, on low dose Dilt
   Remainder of issues as per Housestaff notes
 discussed and reviewed on
   Rounds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2187-8-17**] 09:24 PM
   20 Gauge - [**2187-8-21**] 09:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2187-08-23 07:10:00 Physician Resident Progress Note
Chief Complaint: GI bleed
   24 Hour Events:
   No events overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-8-22**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Slept well. Complaining of mild abdominal pain at LUQ, worse with
   inspiration. No BM this morning. 2 BM yesterday, reportedly with no
   blood.
   Flowsheet Data as of  [**2187-8-23**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.8
C (98.2
   HR: 87 (73 - 124) bpm
   BP: 141/88(102) {105/53(67) - 172/102(114)} mmHg
   RR: 26 (18 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,718 mL
                                                                    771 mL
   PO:
                                                                     50 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  1,293 mL
                                                                    721 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,068 mL
                                                                    715 mL
   Urine:
                                                                    818 mL
                                                                    715 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                    650 mL
                                                                     56 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   GEN: NAD, AOX3
   HEENT: MM slightly dry, JVP flat at 30 degrees with prominent carotid
   pulsations
   CHEST: slight bibasilar rales, no ronchi
   ABD: + shifting dullenss, BS+, soft, mod distension, no tenderness, no
   hepatosplenomegaly
   EXT: WWP, no c/c/e
   NEURO: CN2-12, moving all 4 extremities
   Labs / Radiology
   114 K/uL
   10.1 g/dL
   136 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.5 mEq/L
   5 mg/dL
   106 mEq/L
   136 mEq/L
   29.3 %
   5.3 K/uL
        [image002.jpg]
                             [**2187-8-20**]  07:09 PM
                             [**2187-8-20**]  08:48 PM
                             [**2187-8-21**]  05:37 AM
                             [**2187-8-21**]  12:49 PM
                             [**2187-8-21**]  05:25 PM
                             [**2187-8-21**]  09:28 PM
                             [**2187-8-22**]  03:05 AM
                             [**2187-8-22**]  10:09 AM
                             [**2187-8-22**]  06:00 PM
                             [**2187-8-23**]  01:32 AM
   WBC
   5.0
   9.7
   9.2
   5.3
   Hct
   24.5
   24.7
   28.2
   30.1
   33.8
   30.4
   29.1
   34.4
   31.7
   29.3
   Plt
   109
   108
   112
   114
   Cr
   0.8
   0.9
   0.9
   Glucose
   97
   114
   136
   Other labs: PT / PTT / INR:16.5/29.8/1.5, ALT / AST:[**10-5**], Alk Phos / T
   Bili:167/0.6, Amylase / Lipase:29/36, Differential-Neuts:79.2 %,
   Band:0.0 %, Lymph:13.3 %, Mono:5.1 %, Eos:2.3 %, Lactic Acid:1.3
   mmol/L, Albumin:2.9 g/dL, LDH:191 IU/L, Ca++:8.1 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   67 year old male with metastatic renal cell CA on sutent most recently
   presents w/ GI bleed likely secondary to ampullary metastasis, now s/w
   arterial embolization and radiation therapy, admitted to [**Hospital Unit Name 1**] for
   closer monitoring.
   .
   # GI bleed:  Likely due to metastatic renal cell cancer, met to ampulla
   that was thought to be bleeding.  Has not had any BRBPR over past 48
   hours and currently has had 2 formed stools (brown), has a stable hct
   and is hemodynamically stable. Has rec'd multiple transfusions (12 u
   PRBC) on this admission.
   - Active type and screen w/ 2 units cross matched until [**8-24**]
   - Hematocrit slightly low today at 29
 recheck at 10am, if continuing
   to drop will transfuse.
   - Continue [**Hospital1 **] PPI
   - Surgery is following peripherally
   - Tumor arteries were embolized
   - d/w onc re: further radiation therapy and further chemotherapy
   - Maintain 2 PIVs
   - If rebleeds, plan for emergent angio
   .
   # Metastatic renal cell ca:  d/w onc further management in regards to
   radiation therapy and chemotherapy
   .
   #. HTN: Hypertensive at baseline.  On lisinopril, dilt and atenolol at
   home.
   - Continue dilt 30mg po qid
   - Add on short acting beta-blocker as hypertensive for much of last 24
   hours
   - Can use prn medications to bring his BP down if too hypertensive -
   shorter acting non HR controlling meds such as hydral
   .
   #. Abdominal distension: Consider abdominal ultrasound to evaluate for
   ascites when stable on floor.
   # FEN:  NPO today and ? advance to sips
   - Continue IVF
   .
   PPX:  PPI [**Hospital1 **], pneumoboots
   - Not currently wearing pneumoboots
 reorder
   .
   ACCESS: PIV x2
   .
   CODE: Full
   .
   CONTACT:
   .
   DISPO: ICU level of care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2187-8-17**] 09:24 PM
   20 Gauge - [**2187-8-21**] 09:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Present for the key portions of the history and physical examination.
   Agree with Dr. [**Last Name (STitle) **]
s assessment and plan.  He has had no further blood
   from below.  Minimal RUQ pain with deep inspiration and no real
   tenderness. Hct has been stable.  Plan for regular hcts for the next
   several days as risk of recurrent bleeding is high.
   Time spent: 35 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2187-8-23**] 17:41 ------